US08629160B2
A mixture of benzo[b]thiophen-7-ylboronic acid (300 mg, 1.68 mmol), aniline (157 mg, 1.68 mmol), and 2-oxoacetic acid hydrate (155 mg, 1.68 mmol) in CH3CN (20 ml) was stirred at room temperature for 2 hours. The solvent was evaporated and the crude was purified by flash chromatography (DCM/MeOH=9/1) to obtain 2-(benzo[b]thiophen-7-yl)-2-(phenylamino)acetic acid (303 mg, 63.5% yield).

reactant | benzo[b]thiophen-7-ylboronic acid | 1.68 mmol, 300 mg | S1C2=C(C=C1)C=CC=C2B(O)O | C8H7BO2S
reactant | aniline | 1.68 mmol, 157 mg | NC1=CC=CC=C1 | C6H7N
reactant | 2-oxoacetic acid hydrate | 1.68 mmol, 155 mg | O.O=CC(=O)O
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 2-(benzo[b]thiophen-7-yl)-2-(phenylamino)acetic acid | 303 mg, 63.5% yield | S1C2=C(C=C1)C=CC=C2C(C(=O)O)NC2=CC=CC=C2 | C16H13NO2S
